*TRYING AND GATE & SUBCIRCUIT
*WORKING
         
.INCLUDE C:\Users\Arpit\Documents\NGSpice\DVD\Project-1\45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Parameter definition
.PARAM Lmin=45n
.PARAM Wmin=8u
.PARAM Ldiff=90n
	
	
X1 ina inb out vdd gnd and

Vdd vdd gnd 1.2v
Va ina 0 1.2v
Vb inb 0 0v

.subckt and in1 in2 o2 1 0
M1 a in2 0 0 nmos W={Wmin} L={Lmin} 
M2 o in1 a 0 nmos W={Wmin} L={Lmin} 
M3 o in1 1 1 pmos W={Wmin} L={Lmin} 
M4 o in2 1 1 pmos W={Wmin} L={Lmin} 
M5 o2 o 0 0  nmos W={Wmin} L={Lmin} 
M6 o2 o 1 1  pmos W={Wmin} L={Lmin} 
.ends


*Definition of type	 of analysis


.CONTROL
	alter Va = 0
	alter Vb = 0
	op
	print x1.a out

	alter Va = 0
	alter Vb = 1.2
	op
	print x1.a out

	alter Va = 1.2
	alter Vb = 0
	op
	print x1.a out

	alter Va = 1.2
	alter Vb = 1.2
	op
	print x1.a out
run

.ENDC
.END